US07576094B2
To a solution of trimethyl hydroquinone (3 g) in 100 mL dioxane at room temperature, was added BF3.Et2O (4.26 g). While stirring, a solution of 1-vinylcyclobutanol (1.96 g) in 20 mL dioxane was added dropwise to the mixture. The reaction was stirred for 1 h and quenched by pouring onto ice (50 g). The aqueous layer was saturated with NaCl and extracted with 3:1 hexane/EtOAc. The combined organic phase was washed with brine and NaHCO3 solution, concentrated and diluted with EtOH (30 mL). 10% FeCl3 aqueous solution (40 mL) was added to the solution and the mixture was stirred for 2 h at room temperature. The mixture was diluted with hexane/EtOAc (4:1, 80 mL) and the aqueous layer was saturated with NaCl. After layer separation, the organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude product was chromatographed to afford 2-(2-cyclobutylideneethyl)-3,5,6-trimethylbenzo-1,4-quinone (2.1 g). MS m/z=231 (M−OH).

reactant | trimethyl hydroquinone | 3 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | BF3.Et2O | 4.26 g | B(F)(F)F.CCOCC
reactant | 1-vinylcyclobutanol | 1.96 g | C(=C)C1(CCC1)O | C6H10O
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-(2-cyclobutylideneethyl)-3,5,6-trimethylbenzo-1,4-quinone | 2.1 g | C1(CCC1)=CCC=1C(=O)C(=C(C(C1C)=O)C)C | C15H18O2
